US04921855
To a solution of N-t-butoxycarbonyl-N-methyl-β-alanine methyl ester (3.911 g) in methanol (20 ml) and water (20 ml) was added sodium borohydride (6.81 g) portionwise at 4° C. and the mixture was stirred at room temperature for 3 hours. The solution was concentrated in vacuo, and the residue was portioned between ethyl acetate (100 ml) and 0.5N hydrochloric acid (100 ml). The separated organic layer was washed with 0.5N hydrochloric acid (100 ml), water (100 ml), aqueous sodium bicarbonate (100 ml), water (100 ml) and brine (100 ml) successively,and dried over magnesium sulfate. Evaporation of the solvent gave 3-(N-t-butoxycarbonyl-N-methylamino)propanol (2.48 g) as an oil.

reactant | N-t-butoxycarbonyl-N-methyl-β-alanine methyl ester | 3.911 g | COC(CCN(C)C(=O)OC(C)(C)C)=O | C10H19NO4
reactant | sodium borohydride | 6.81 g | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 3-(N-t-butoxycarbonyl-N-methylamino)propanol | 2.48 g | C(C)(C)(C)OC(=O)N(C)CCCO | C9H19NO3
